US06090825
5-(4-Fluoro-Phenyl)-2-Methylsulfanyl-4-(2,2,2-Trifluoro-Ethoxymethyl)-Oxazole
A suspension of [5-(4-fluoro-phenyl)-2-methylsulfanyl-oxazol-4-yl]-methanol (4.15 g; 17.34 mmol) in dry toluene (100 ml) was treated with 2,2,2-trifluoroethanol (12.63 ml; 173.4 mmol), 1,1'-(azodicarbonyl)dipiperidine (5.03 g; 19.94 mmol) and tributylphosphine (4.97 ml; 19.94 mmol) and stirred for 2 hours. The reaction mixture is partitioned between ethyl acetate (150 ml) and dilute sodium chloride solution (150 ml). The organic phase is washed with saturated brine (30 ml), dried over sodium sulfate and concentrated to dryness. Purification by flash chromatography on silica gel using an ethyl acetate/hexane gradient (2%-30%) afforded the product as a colorless residue (3.0 g; 49%). HNMR (CDCl3): 7.65 (m, 2H), 7.18 (t, 2H, J=8.7 Hz), 4.72 (s, 2H), 4.01 (qt, 2H, J=8.6 Hz), 2.73 (s, 3H). Mass spectrum: m/e calculated (MH+)=322; observed (MH+)=322.

reactant | [5-(4-fluoro-phenyl)-2-methylsulfanyl-oxazol-4-yl]-methanol | 17.34 mmol, 4.15 g | FC1=CC=C(C=C1)C1=C(N=C(O1)SC)CO | C11H10FNO2S
reactant | 2,2,2-trifluoroethanol | 173.4 mmol, 12.63 ml | FC(CO)(F)F | C2H3F3O
reactant | 1,1'-(azodicarbonyl)dipiperidine | 19.94 mmol, 5.03 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 19.94 mmol, 4.97 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Fluoro-Phenyl)-2-Methylsulfanyl-4-(2,2,2-Trifluoro-Ethoxymethyl)-Oxazole | FC1=CC=C(C=C1)C1=C(N=C(O1)SC)COCC(F)(F)F | C13H11F4NO2S
